US04788199
The procedure is as in Example 1, starting with ethyl 3-phenyl-1-isoquinolinepropionate (6.1 g) and diethylamine (30 cc). The crude product is purified by means of 4 successive chromatographic separations on silica gel, using a cyclohexane/ethyl acetate (7:3 by volume) mixture as eluant. N,N-Diethyl-3-phenyl-1-isoquinolinepropanamide (1.4 g), m.p. 58° C., is obtained.

reactant | ethyl 3-phenyl-1-isoquinolinepropionate | 6.1 g | C1(=CC=CC=C1)C=1N=C(C2=CC=CC=C2C1)CCC(=O)OCC | C20H19NO2
solvent | diethylamine | 30 cc | C(C)NCC | C4H11N
product | N,N-Diethyl-3-phenyl-1-isoquinolinepropanamide | 1.4 g | C(C)N(C(CCC1=NC(=CC2=CC=CC=C12)C1=CC=CC=C1)=O)CC | C22H24N2O
